US04665203
ethyl 3-(3,4-dihydro-7-hydroxy-2-methyl-4-oxo-8-propyl-2H-1-benzopyran-2-yl)propanoate
A solution of 58.0 g (0.299 mole) of 2,4-dihydroxy-3-propylacetophenone and 29.5 ml (0.36 mole) of pyrrolidine in 250 ml of toluene was heated to reflux for three hours under a Dean-Stark trap. After cooling the mixture, 68.2 ml (0.48 mole) of ethyl levulinate was added and the mixture was refluxed for two hours. An additional 10 ml (0.12 mole) of pyrrolidine was added and the mixture was refluxed overnight under a Dean-Stark trap.

reactant | 2,4-dihydroxy-3-propylacetophenone | 0.299 mole, 58.0 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | pyrrolidine | 0.36 mole, 29.5 ml | N1CCCC1 | C4H9N
reactant | ethyl levulinate | 0.48 mole, 68.2 ml | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | pyrrolidine | 0.12 mole, 10 ml | N1CCCC1 | C4H9N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(3,4-dihydro-7-hydroxy-2-methyl-4-oxo-8-propyl-2H-1-benzopyran-2-yl)propanoate | OC1=C(C2=C(C(CC(O2)(C)CCC(=O)OCC)=O)C=C1)CCC | C18H24O5
